US08470828B2
Intermediate B: trans-4-{2-[4-(2,3-Dihydro-furo[2,3-c]pyridin-7-yl)-piperazin-1-yl]-ethyl}-cyclohexylamine trihydrochloride
To a mixture of trans-(4-{2-[4-(2,3-dihydro-furo[2,3-c]pyridin-7-yl)-piperazin-1-yl]-ethyl}-cyclohexyl)-carbamic acid tert-butyl ester (1.3 g, 3.02 mmol) in dichloromethane (21 ml) was added at room temperature hydrochloric acid solution (4M in dioxane, 11.3 ml, 45.3 mmol) and the mixture was allowed to stir for 3 h, the solvent was evaporated, diethyl ether (50 ml) was added and the mixture was allowed to stir for 30 min at room temperature. The precipitate was collected by filtration, washed with diethyl ether and dried to yield the title compound as off-white solid (1.29 g, 97%), MS (ISP) m/z=331.3 [(M+H)+], mp 318.5° C.

reactant | trans-(4-{2-[4-(2,3-dihydro-furo[2,3-c]pyridin-7-yl)-piperazin-1-yl]-ethyl}-cyclohexyl)-carbamic acid tert-butyl ester | 3.02 mmol, 1.3 g | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)CCN1CCN(CC1)C=1N=CC=C2C1OCC2)=O | C24H38N4O3
reactant | hydrochloric acid | 45.3 mmol, 4M, 11.3 ml | Cl | ClH
solvent | dichloromethane | 21 ml | ClCCl | CH2Cl2
product | trans-4-{2-[4-(2,3-Dihydro-furo[2,3-c]pyridin-7-yl)-piperazin-1-yl]-ethyl}-cyclohexylamine trihydrochloride | 1.29 g, 97% | Cl.Cl.Cl.O1CCC=2C1=C(N=CC2)N2CCN(CC2)CC[C@@H]2CC[C@H](CC2)N | InChI=1S/C19H30N4O.3ClH/c20-17-3-1-15(2-4-17)6-9-22-10-12-23(13-11-22)19-18-16(5-8-21-19)7-14-24-18;;;/h5,8,15,17H,1-4,6-7,9-14,20H2;3*1H/t15-,17-;;;
